US08067590B2
9a 4-Benzyloxy-1-(2-bromo-allyl)-1H-pyridin-2-one
To 6.00 g (29.8 mmol) 4-benzyloxy-1H-pyridin-2-one in 30 mL DMF at 0° C. is added 19.4 g (59.6 mmol) cesium carbonate and after 15 min 11.9 g (59.6 mmol) 2,3-dibromo-propene. The reaction mixture is stirred 2 h at RT and is diluted with EtOAc/MeOH and water. The organic phase is washed with water and is dried over MgSO4. After filtration and evaporation of the solvent, the residue is purified via reverse HPLC chromatography (Waters symmetry, C18; water (0.15% formic acid)/acetonitrile 95:5 to 10:90).

reactant | 4-benzyloxy-1H-pyridin-2-one | 29.8 mmol, 6.00 g | C(C1=CC=CC=C1)OC1=CC(NC=C1)=O | C12H11NO2
reactant | cesium carbonate | 59.6 mmol, 19.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,3-dibromo-propene | 59.6 mmol, 11.9 g | BrC(=C)CBr | C3H4Br2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc MeOH | CCOC(=O)C.CO
solvent | water | O | H2O
product | 4-Benzyloxy-1-(2-bromo-allyl)-1H-pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC(=C)Br)=O | C15H14BrNO2
